US08957068B2
4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzaldehyde
A solution of (S)-3-(2-((S)-1-(4-(hydroxymethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (285 mg, 0.8 mmol) and manganese dioxide (2.78 g, 32 mmol, 40 equiv) in DCM (16 mL) was stirred at room temperature for 30 min. The solution was filtered through a pad of celite and washed with DCM. The filtrated was concentrated and used to next step without further purification.

reactant | (S)-3-(2-((S)-1-(4-(hydroxymethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.8 mmol, 285 mg | OCC1=CC=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C19H24N4O3
solvent | DCM | 16 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 32 mmol, 2.78 g, 40 equiv | [O-2].[O-2].[Mn+4]
product | 4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzaldehyde | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(C=O)C=C1 | C19H22N4O3
